US09079861B2
To a suspension of NaH (84 mg, 2.1 mmol) in THF (1 mL) was added a solution of (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one (50 mg, 0.120 mmol) in THF (5 mL) at 0° C. The resulting mixture was stirred for 2 h. Then CH3I (50 mg, 0.35 mmol) was added. The mixture was stirred for 3 h. The reaction was quenched with satd aq NH4Cl. The organic phase was separated, and concentrated to give the crude product, which was purified by preparative TLC to afford (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-3-methyltetrahydropyrimidin-2(1H)-one (11.7 mg, 23%). LC-MS Method 1 tR=1.403 min, m/z=431; 1H NMR (CDCl3): δ=1.38 (d, 3H), 1.63 (m, 1H), 2.19 (m, 2H), 2.70 (m, 2H), 2.83 (m, 3H), 5.20 (m, 2H), 5.71-5.84 (m, 2H), 6.91 (m, 2H), 7.05 (m, 4H), 7.32 (m, 2H).

reactant | NaH | 2.1 mmol, 84 mg | [H-].[Na+]
reactant | (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | 0.120 mmol, 50 mg | C(C=C)[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C1=CC=C(C=C1)F | C21H22BrFN2O
reactant | CH3I | 0.35 mmol, 50 mg | CI | CH3I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-3-methyltetrahydropyrimidin-2(1H)-one | 11.7 mg, 23% | C(C=C)[C@]1(N(C(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C)C1=CC=C(C=C1)F | C22H24BrFN2O
